US04261996
4,9-Dihydro-7-hydroxy-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid.
A suspension of 4,9-dihydro-7-methoxy-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid (2.0 g; 0.0077 mole) in 48% hydrobromic acid (30 ml) and glacial acetic acid (50 ml) is refluxed for 23 hrs. The mixture is cooled and then diluted with water (25 ml). The product, which precipitates out, is collected by filtration and recrystallized from DMF-Ether (1:1, 90 ml). Yield 1.1 g; mp 285°-286° C. (d).

reactant | 4,9-dihydro-7-methoxy-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid | 0.0077 mole, 2.0 g | COC1=CC=2C(N3C(NC2C=C1)=CC(=N3)C(=O)O)=O | C12H9N3O4
solvent | hydrobromic acid | 30 ml | Br | BrH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 25 ml | O | H2O
product | 4,9-Dihydro-7-hydroxy-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid | OC1=CC=2C(N3C(NC2C=C1)=CC(=N3)C(=O)O)=O | C11H7N3O4
